US06943183B2
A solution of ethyl 2-methyl-2-{[5-oxo-1-(2-phenylethyl)-5,6,7,8-tetrahydro-2-naphthalenyl]oxy}propanoate (1.00 g, 2.62 mmol) in tetrahydrofuran (4 mL) was added to an ice-cooled suspension of lithium aluminum hydride (150 mg, 3.94 mmol) in tetrahydrofuran (1 mL) the mixture was stirred at room temperature for 1 h, and was then cooled in ice and treated sequentially with water (0.15 mL), 15% aqueous sodium hydroxide (0.15 mL) and water (0.45 mL). The mixture was stirred at room temperature for 10 min, and was then diluted with ether (5 mL) and filtered. The filtrate was concentrated to give 6-(2-hydroxy-1,1-dimethylethoxy)-5-(2-phenylethyl)-1,2,3,4-tetrahydro-1-naphthalenol as a white solid, 0.856 g, 95% yield. NMR spectrum was consistent with structure. Calcd. for C22H28O3: Theory: C, 77.61; H, 8.29. Found: C, 77.42; H, 8.34. 3. 6-(2-Hydroxy-1,1-dimethylethoxy)-5-(2-phenylethyl)-3,4-dihydro-1(2H)-naphthalenone

reactant | ethyl 2-methyl-2-{[5-oxo-1-(2-phenylethyl)-5,6,7,8-tetrahydro-2-naphthalenyl]oxy}propanoate | 2.62 mmol, 1.00 g | CC(C(=O)OCC)(C)OC1=C(C=2CCCC(C2C=C1)=O)CCC1=CC=CC=C1 | C24H28O4
reactant | lithium aluminum hydride | 3.94 mmol, 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.15 mL | O | H2O
reactant | sodium hydroxide | 0.15 mL | [OH-].[Na+]
reactant | water | 0.45 mL | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ether | 5 mL | CCOCC | C4H10O
product | 6-(2-hydroxy-1,1-dimethylethoxy)-5-(2-phenylethyl)-1,2,3,4-tetrahydro-1-naphthalenol | 95% yield | OCC(OC=1C(=C2CCCC(C2=CC1)O)CCC1=CC=CC=C1)(C)C | C22H28O3
